US04129660
(i) Sodium methyl-dimethylamidophosphate.
There is reacted with stirring for several hours at 60°-70° C. a mixture of 153 parts dimethyldimethylamidophosphate, 50 parts sodium cyanide and 400 parts dimethylsulphoxide (DMSO). The preparation is left overnight at ambient temperature, the product separated off by filtration, washed with DMSO and then with acetone and dried under vacuum. 140 parts of a white solid, readily soluble in water, are obtained.

reactant | dimethyldimethylamidophosphate | COP(=O)(OC)N(C)C | C4H12NO3P
reactant | sodium cyanide | [C-]#N.[Na+]
solvent | dimethylsulphoxide | CS(=O)C | C2H6OS
product | Sodium methyl-dimethylamidophosphate | COP(=O)([O-])N(C)C.[Na+] | InChI=1S/C3H10NO3P.Na/c1-4(2)8(5,6)7-3;/h1-3H3,(H,5,6);/q;+1/p-1
